US05750525
2-[(6-Trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl chloride
1.3 g (4.7 mmol) of 2-[(6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl alcohol is stirred in 20 ml of thionyl chloride for 4 hours at room temperature. After concentration by evaporation and subsequent distillation with toluene, 1.34 g (97% of theory) of 2-[(6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl chloride is obtained.

reactant | (6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl alcohol | FC(C=1C=C2NC(C(N(C2=CC1)CCO)=O)=O)(F)F | C11H9F3N2O3
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | (6-Trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl chloride | FC(C=1C=C2NC(C(N(C2=CC1)CCCl)=O)=O)(F)F | C11H8ClF3N2O2
